US09315491B2
4-[5-Methoxy-2-(3-nitro-phenyl)-pyrimidin-4-yl]-morpholine
A mixture of 4-(2-chloro-5-methoxy-pyrimidin-4-yl)-morpholine (0.2 g, 1.0 eq), 3-nitrophenyl boronic acid (0.17 g, 1.2 eq), (PPh3)4Pd (0.10 g, 0.1 eq) and 2 M Na2CO3 (1.3 ml, 3.0 eq) was heated at 80° C. and refluxed overnight. The solvent was removed in vacuo, and the residue was extracted with EA and water. The combined organic layers were washed with brine, dried and evaporated in vacuo. The crude was purified by chromatography to give a yellow solid (0.11 g, 39.97%).

reactant | 4-(2-chloro-5-methoxy-pyrimidin-4-yl)-morpholine | 0.2 g, 1.0 eq | ClC1=NC=C(C(=N1)N1CCOCC1)OC | C9H12ClN3O2
reactant | 3-nitrophenyl boronic acid | 0.17 g, 1.2 eq | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
reactant | Na2CO3 | 2 M, 1.3 ml, 3.0 eq | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | (PPh3)4Pd | 0.10 g, 0.1 eq | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-[5-Methoxy-2-(3-nitro-phenyl)-pyrimidin-4-yl]-morpholine | 0.11 g, 39.97% | COC=1C(=NC(=NC1)C1=CC(=CC=C1)[N+](=O)[O-])N1CCOCC1 | C15H16N4O4
